US07368578B2
A mixture of ethyl 3-(methoxymethoxy)-1H-pyrazole-4-carboxylate (1.80 g), 2-methylphenylboronic acid (2.45 g), pyridine (1.46 mL), copper(II) acetate (2.45 g) and dichloromethane (50 mL) was stirred at room temperature for 16 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:9-1:1, v/v) to give ethyl 3-(methoxymethoxy)-1-(2-methylphenyl)-1H-pyrazole-4-carboxylate as a pale-yellow oil (2.39 g, yield 92%).

reactant | ethyl 3-(methoxymethoxy)-1H-pyrazole-4-carboxylate | 1.80 g | COCOC1=NNC=C1C(=O)OCC | C8H12N2O4
reactant | 2-methylphenylboronic acid | 2.45 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | pyridine | 1.46 mL | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | copper(II) acetate | 2.45 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | Water | O | H2O
product | ethyl 3-(methoxymethoxy)-1-(2-methylphenyl)-1H-pyrazole-4-carboxylate | 2.39 g, yield 92% | COCOC1=NN(C=C1C(=O)OCC)C1=C(C=CC=C1)C | C15H18N2O4
